US04661591
A mixture of 125 g (0.411 mole) of 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione, 125 g (1.982 moles) of ammonium formate, 50 g of 5% strength Pd/C, 50 g of active carbon, 3.125 l of propanol and 165 ml of water was refluxed for 3 hours, while stirring, after which 2.5 l of solvent were distilled off under about 100 mbar, while stirring. The residue was poured onto 3 l of ice water, and the resulting suspension was acidified with concentrated hydrochloric acid, while stirring. Stirring was continued for a further hour, after which the mixture was filtered under suction and the residue was added to 1.8 l of dimethylformamide. The stirred mixture was heated at 100° C. and then filtered again under suction. The residue (Pd/C and active carbon) was washed with 5 times 100 ml of hot dimethylformamide. The original dimethylformamide mother liquor was combined with the dimethylformamide used for washing, and the still warm combined solutions were poured onto 9 l of cold water, while stirring. The precipitate formed during this procedure was filtered off under suction, washed with water and dried at 50° C., in a drying oven under reduced pressure. 80.6 g (83% OF 4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione were obtained in the form of beige crystals of melting point 268.5°-271° C.

reactant | 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | 0.411 mole, 125 g | ClC=1SC(=C2NC(C=3C(C(C21)=O)=CSC3)=O)Cl | C10H3Cl2NO2S2
reactant | ammonium formate | 1.982 moles, 125 g | C(=O)[O-].[NH4+]
reactant | propanol | 3.125 l | C(CC)O | C3H8O
catalyst | Pd/C | [Pd] | Pd
solvent | water | 165 ml | O | H2O
product | 4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | 83% | C=1SC=C2NC(C=3C(C(C21)=O)=CSC3)=O | C10H5NO2S2
